US05840732
ii) Synthesis of 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-5-yl)propyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.22 g (3.70 mmol) of 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-5-yl)propyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.4 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.36 g (100%, light yellow solid) of the desired product.

reactant | 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-5-yl)propyl]thiazolidine-2,4-dione | 3.70 mmol, 1.22 g | C(CCC)=C1C(N(C(S1)=O)CCCC1=CC=CC=2N1C=CN2)=O | C17H19N3O2S
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-butylidene-3-[3-(imidazo[1,2-a]pyridin-5-yl)propyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCC1=CC=CC=2N1C=CN2)=O | InChI=1S/C17H19N3O2S.ClH/c1-2-3-8-14-16(21)20(17(22)23-14)11-5-7-13-6-4-9-15-18-10-12-19(13)15;/h4,6,8-10,12H,2-3,5,7,11H2,1H3;1H
